US04430337
Trans-2-(2-Methyl-3-cyclohexen-1-yl)-2-hydroxyacetonitrile
Sodium bisulfite (10.4 g., 0.1 mole) was dissolved in 50 ml. H2O. Absolute ethanol (50 ml.) and trans-2-methyl-3-cyclohexene-1-carbaldehyde (85%, 8.6 g., 0.07 mole) were added and the mixture heated in an oil bath at 63°-65° C. for 1.5 hours, then cooled to 15° C. in an ice-water bath. KCN (13 g., 0.2 mole) in 50 ml. H2O was added at 15°-18° C. The reaction mixture was stirred at room temperature 0.5 hour and extracted with 150 ml. ether. The ether was back-washed with 75 ml. H2O and concentrated in vacuo to yield title product as an oil, 5.5 g. Based on pnmr, the product contained 85% trans isomer (doublet at 4.6 ppm, J=4) and 15% cis isomer (doublets at 4.2 and 4.35, J=2).

reactant | Sodium bisulfite | 0.1 mole, 10.4 g | S([O-])(O)=O.[Na+]
reactant | trans-2-methyl-3-cyclohexene-1-carbaldehyde | 0.07 mole, 8.6 g | C[C@H]1[C@@H](CCC=C1)C=O | C8H12O
reactant | KCN | 0.2 mole, 13 g | [C-]#N.[K+]
solvent | H2O | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Trans-2-(2-Methyl-3-cyclohexen-1-yl)-2-hydroxyacetonitrile | C[C@H]1[C@@H](CCC=C1)C(C#N)O | C9H13NO
